US04243678
30.0 g of 2-aminobiphenyl, 23.4 g of ethyl diisopropylamine and 35.4 g of ethyl 4-bromobutyrate are heated together to 150° for 3 hours while stirring. After cooling, the reaction product is stirred with diethyl ether, the precipitated salt is filtered off, and the residue (remaining after evaporating off the ether) is recrystallized from isopropyl alcohol to obtain 32.0 g (63.7% of theory) of ethyl 4-(biphenyl-2-yl)aminobutyrate, MP 60° to 62°.

reactant | 2-aminobiphenyl | 30.0 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | ethyl diisopropylamine | 23.4 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl 4-bromobutyrate | 35.4 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 4-(biphenyl-2-yl)aminobutyrate | 32.0 g, 63.7% | C1(=C(C=CC=C1)NCCCC(=O)OCC)C1=CC=CC=C1 | C18H21NO2
